US06413991B1
4-(4-(2-Methyl-2-nitropropyl)phenoxy)phenol
4-(4-(2-Methyl-2-nitropropyl)phenoxy)benzaldehyde (6.00 g, 20 mmol) was dissolved in chloroform (500 mL). m-Chloroperoxy-benzoic acid (10.0 g, 58 mmol) was added in small portions at RT. After stirring for 1 hour, the mixture was concentrated in vacuo and MeOH (300 mL) added followed by the dropwise addition of conc. HCl (5 mL). This mixture was stirred for 3 hours at RT and then concentrated in vacuo. Chromatography over silica gel (MeOH/CHCl3) allowed for the isolation of 3.20 g (55%) of the desired product. MS(FD+): 287.2.

reactant | 4-(4-(2-Methyl-2-nitropropyl)phenoxy)benzaldehyde | 20 mmol, 6.00 g | CC(CC1=CC=C(OC2=CC=C(C=O)C=C2)C=C1)(C)[N+](=O)[O-] | C17H17NO4
reactant | m-Chloroperoxy-benzoic acid | 58 mmol, 10.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-(2-Methyl-2-nitropropyl)phenoxy)phenol | CC(CC1=CC=C(OC2=CC=C(C=C2)O)C=C1)(C)[N+](=O)[O-] | C16H17NO4
